US07521447B2
Step B: 5-(2,4-Difluorophenoxy)-1-isobutyl-1H-indazole-6-sulfonic acid (3-dimethylaminopropyl)-amide (26d):
To a cooled (0° C.) solution of 5-(2,4-difluorophenoxy)-1-isobutyl-1H-indazole-6-sulfonyl chloride (0.20 g, 0.50 mmol) in dichloromethane under N2 atmosphere was added 3-(dimethylamino)propylamine (0.05 g, 0.50 mmol) and triethylamine (0.15 g, 1.5 mmol) drop-wise. The reaction mixture was stirred for 4 hours and then diluted with dichloromethane (20 mL), washed with water, saturated NaHCO3 and brine and then dried over MgSO4. The mixture was concentrated under reduced pressure and chromatographed on preparatory TLC plates eluting with dichloromethane/MeOH/Et3N (95:4:1) to afford the 93 mg of final product (40% yield). MS (APCI−) m/z 466 detected; 1H NMR (400 mHz, CDCl3) δ 8.15 (s, 1H), 7.91 (s, 1H), 7.20 (m, 1H), 7.09 (s, 1H), 7.00 (m, 1H), 6.90 (m, 1H), 4.22 (d, 2H), 3.12 (t, 2H), 2.35 (m, 3H), 2.13 (s, 6H), 1.70 (m, 2H), 0.94 (d, 6H).

reactant | 5-(2,4-difluorophenoxy)-1-isobutyl-1H-indazole-6-sulfonyl chloride | 0.50 mmol, 0.20 g | FC1=C(OC=2C=C3C=NN(C3=CC2S(=O)(=O)Cl)CC(C)C)C=CC(=C1)F | C17H15ClF2N2O3S
reactant | 3-(dimethylamino)propylamine | 0.50 mmol, 0.05 g | CN(CCCN)C | C5H14N2
reactant | triethylamine | 1.5 mmol, 0.15 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 5-(2,4-Difluorophenoxy)-1-isobutyl-1H-indazole-6-sulfonic acid (3-dimethylaminopropyl)-amide | 93 mg, 40% yield | CN(CCCNS(=O)(=O)C1=C(C=C2C=NN(C2=C1)CC(C)C)OC1=C(C=C(C=C1)F)F)C | C22H28F2N4O3S
